US04200628
To a suspension of 0.57 g of lithium aluminium hydride in 30 ml of dry ether is dropwise added a solution of 6 g (0.021 mole) of 1-diphenylmethyl-2-methoxycarbonylazetidine [prepared in the manner described in J. Heterocyclic Chem., 6, 435 (1969) by R. M. Rodebaugh and N. H. Cromwell] in 30 ml of dry ether in a period of 15 minutes, and the mixture is stirred at room temperature for 15 minutes. The excess amount of lithium aluminium hydride is decomposed with ethyl acetate. The insoluble materials are filtered off and washed with dry ether. The combined filtrate and washings are evaporated to dryness under reduced pressure. The residue is dissolved in ether and the resulting solution is evaporated to yield 4.7 g of crude syrupy 1-diphenylmethyl-2-hydroxymethylazetidine in 90% yield.

reactant | lithium aluminium hydride | 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-diphenylmethyl-2-methoxycarbonylazetidine | 0.021 mole, 6 g | C1(=CC=CC=C1)C(N1C(CC1)C(=O)OC)C1=CC=CC=C1 | C18H19NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 1-diphenylmethyl-2-hydroxymethylazetidine | 4.7 g, 90% yield | C1(=CC=CC=C1)C(N1C(CC1)CO)C1=CC=CC=C1 | C17H19NO
